US04839374
A mixture of 7.9 parts of 3-[(4-fluorophenylmethyl]-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridine dihydrochloride, 8.5 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone was stirred and refluxed for 30 minutes using a water separator. 7.8 Parts of 2-thiopheneethanol methanesulfonate (ester) were added and the whole was stirred and refluxed for 4 hours using a water separator. After cooling, the salts were filtered off, washed with 4-methyl-2-pentanone and the filtrate was washed with water. The organic layer was dried, filtered and evaporated. The residue was converted into the hydrochloride salt in 2-propanol and 2-propanone. The salt was filtered off and dried in vacuo at 60° C., yielding 8.0 parts (76%) of 3-[(4-fluorophenyl)methyl]-2-[[1-[2-thienyl)-ethyl]-4-piperidinyl]methyl]-3H-imidazo[4,5-b]pyridine dihydrochloride. monohydrate; mp. 210.8° C. (117).

reactant | (4-fluorophenylmethyl]-2-(4-piperidinylmethyl)-3H-imidazo[4,5-b]pyridine dihydrochloride | Cl.Cl.FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)CC2CCNCC2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
reactant | 2-thiopheneethanol methanesulfonate | CS(=O)(=O)OCCC=1SC=CC1 | C7H10O3S2
solvent | water | O | H2O
product | 3H-imidazo[4,5-b]pyridine dihydrochloride | Cl.Cl.N1=CNC2=NC=CC=C21 | InChI=1S/C6H5N3.2ClH/c1-2-5-6(7-3-1)9-4-8-5;;/h1-4H,(H,7,8,9);2*1H
